US06833366B1
(3S)-3-[[[3-[4-[(1-oxido-2-pyridinyl)amino]butoxy]phenyl]sulfonyl]amino]-5-hexynoic acid, ethyl ester
The hydroxyphenylsulfonamide compound (0.7 g, 2.2 mmol) and triphenylphosphine polymer 0.3 mmol per g (1.35 g) were dissolved in THF (10 ml). 2-[(3-Hydroxy-1-propyl)amino]pyridine-N-oxide (0.74 g, 4.06 mmol) and diethyl azodicarboxylate (0.8 mL, 4.06 mmol) were added to above solution at room temperature. The reaction mixture was stirred 48 hours at room temperature. Solid was filtered out and filtrate was concentrated. The residue was purified on reversed phase HPLC to give the title compound (0.6 g, 45%). 1H NMR (400 MHz, CD3OD) δ 1.45 (t, 3H, J=7.18 Hz), 1.84-2.01 (m, 4H), 2.28-2.39 (m, 3 H), 2.41-2.65 (m, 2 H), 3.50 (t, 2 H, J=6.79 Hz), 3.71-3.90 (m, 1 H), 3.91-4.00 (m, 2H), 4.11 (t, 2 H, J=5.71 Hz), 6.79-6.83 (m, 1H), 7.13-7.18 (m, 2H), 7.35-7.40 (m,1 H), 7.40-7.46 (m, 2 H), 7.71-7.76 (m, 1 H), 8.15-8.18 (m, 1 H). HRMS (M+H) calculated for C23H29N3O6S1 476.1855, found 476.1830.

reactant | hydroxyphenylsulfonamide | 2.2 mmol, 0.7 g | ONS(=O)(=O)C1=CC=CC=C1 | C6H7NO3S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-[(3-Hydroxy-1-propyl)amino]pyridine-N-oxide | 4.06 mmol, 0.74 g | OCCCNC1=[N+](C=CC=C1)[O-] | C8H12N2O2
reactant | diethyl azodicarboxylate | 4.06 mmol, 0.8 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | (3S)-3-[[[3-[4-[(1-oxido-2-pyridinyl)amino]butoxy]phenyl]sulfonyl]amino]-5-hexynoic acid, ethyl ester | 0.6 g, 45% | [O-][N+]1=C(C=CC=C1)NCCCCOC=1C=C(C=CC1)S(=O)(=O)N[C@H](CC(=O)OCC)CC#C | C23H29N3O6S
